US05136080
d. Preparation of 2,4-Diamino-5-(5-amino-2,4-dichlorophenyl)-6-methylpyrimidine
2,4-diamino-5-(2,4-dichloro-5-nitrophenyl)-6-methylpyrimidine (4.80 g, 15 mmol) was dissolved in glacial acetic acid (18 ml). This solution and 10 mg of Adam's catalyst was stirred under an atmosphere of hydrogen at room temperature for 4 hours. The catalyst was filtered off and the acetic acid was evaporated. The colourless liquid obtained was dissolved in ethyl acetate and washed 3 times with water. After evaporating the ethyl acetate, a white solid was obtained (2.64 g, 9 mmol).

reactant | 2,4-diamino-5-(2,4-dichloro-5-nitrophenyl)-6-methylpyrimidine | 15 mmol, 4.80 g | NC1=NC(=C(C(=N1)N)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)Cl)C | C11H9Cl2N5O2
solvent | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
catalyst | Adam's catalyst | 10 mg | O=[Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-Diamino-5-(5-amino-2,4-dichlorophenyl)-6-methylpyrimidine | NC1=NC(=C(C(=N1)N)C1=C(C=C(C(=C1)N)Cl)Cl)C | C11H11Cl2N5
